US04703046
A mixture of 2-(2-amino-5-methylthiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 2.6 g.), acetic anhydride (31 ml.) and formic acid (13 ml.) was stirred at room temperature for 2 hrs. and then evaporated in vacuo. The residue was dissolved in a mixture of water and ethyl acetate. The ethyl acetate layer was separated, washed with an aqueous solution of sodium chloride, dried over magnesium sulfate, treated with activated charcoal and then filtered. The filtrate was evaporated in vacuo. The oily residue was treated with n-hexane and diisopropyl ether, and the precipitates were collected by filtration to give 2-(2-formamido-5-methylthiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 2.8 g.).

reactant | 2-(2-amino-5-methylthiazol-4-yl)-2-methoxyiminoacetic acid | 2.6 g | NC=1SC(=C(N1)C(C(=O)O)=NOC)C | C7H9N3O3S
reactant | acetic anhydride | 31 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 13 ml | C(=O)O | CH2O2
product | 2-(2-formamido-5-methylthiazol-4-yl)-2-methoxyiminoacetic acid | 2.8 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)C | C8H9N3O4S
